US03979427
The autoclave was charged with 10.0 grams of nitroso benzene, 63 grams (73 ml.) of toluene, 0.5 grams of rhodium trichloride, and 0.5 grams of anhydrous cobalt iodide. The autoclave was closed and then charged with sufficient carbon monoxide to increase the pressure to 1400 psig. The autoclave was heated to a temperature of 200°C. for 2 hours. After cooling the autoclave was vented, the contents filtered and the filtrate was analyzed by vapor phase chromotography. The product contained 3.2 grams of phenyl isocyanate, which corresponded to a corrected yield of 29 percent phenyl isocyanate.

reactant | nitroso benzene | 10.0 grams | N(=O)C1=CC=CC=C1 | C6H5NO
reactant | carbon monoxide | [C]=O | CO
reactant | toluene | 73 ml, 63 grams | C1(=CC=CC=C1)C | C7H8
catalyst | rhodium trichloride | 0.5 grams | [Rh](Cl)(Cl)Cl
catalyst | cobalt iodide | 0.5 grams | [Co](I)I
product | phenyl isocyanate | yield of 29 percent | C1(=CC=CC=C1)N=C=O | C7H5NO
